US07074796B2
3-Chloro-1-(2,3-dihydro-1H-indol-1-yl)propan-1-one
A mixture of 2,3-dihydro-1H-indole (50 g), triethylamine (132 g) and tetrahydrofuran (1000 mL) was cooled down to 10° C. followed by the addition (over a period of 60 min) of a solution of 3-chloropropanoyl chloride (55 g) in tetrahydrofuran (400 mL). The mixture was filtered, and the remaining solution was evaporated in vacuo to dryness. The residue was purified by flash chromatography (eluent:ethyl acetate/heptane 1:3) giving the title compound as a crystalline white material (31 g).

reactant | 2,3-dihydro-1H-indole | 50 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | triethylamine | 132 g | C(C)N(CC)CC | C6H15N
reactant | 3-chloropropanoyl chloride | 55 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1000 mL | O1CCCC1 | C4H8O
product | 3-Chloro-1-(2,3-dihydro-1H-indol-1-yl)propan-1-one | ClCCC(=O)N1CCC2=CC=CC=C12 | C11H12ClNO
